US07601716B2
4-(3-{1-[5-Chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}benzoylamino)piperidine-1-carboxylic acid ethyl ester
3-{1-[5-chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}benzoic acid was reacted with 4-aminopiperidine-1-carboxylic acid ethyl ester as in General Procedure 10 to give the title compound. LCMS: m/z=601.99 (M+H+); retention time=0.86 minutes.

reactant | 3-{1-[5-chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}benzoic acid | ClC=1C=CC(=C(CN2C3=C(NCC2)N=CC(=C3)C=3C=C(C(=O)O)C=CC3)C1)C(F)(F)F | C22H17ClF3N3O2
reactant | 4-aminopiperidine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1CCC(CC1)N | C8H16N2O2
product | 4-(3-{1-[5-Chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}benzoylamino)piperidine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1CCC(CC1)NC(C1=CC(=CC=C1)C1=CC2=C(NCCN2CC2=C(C=CC(=C2)Cl)C(F)(F)F)N=C1)=O | C30H31ClF3N5O3
